US08859773B2
To a solution of tert-butyl 2′-isopropyl-7′-oxo-2′,4′,6′,7′-tetrahydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-1-carboxylate (130 mg, 0.37 mmol) in ethyl acetate (5 mL) was added 4 M hydrochloric acid (2 mL) in 1,4-dioxane. The reaction mixture was stirred 3 hours at room temperature, the volatiles were removed under reduced pressure and the resultant residue was triturated with 10 mL heptane. The solid was dried under reduced pressure to yield 2′-isopropyl-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridin]-7′(2′H)-one hydrochloride (105 mg) as an off-white solid. +ESI (M+H) 249.1; 1H NMR (500 MHz, DMSO-d6, δ): 7.91 (s, 1H) 7.69 (s, 1H) 4.48-4.62 (m, 1H) 3.02-3.28 (m, 4H) 2.78 (s, 2H) 1.74-1.89 (m, 4H) 1.41 (d, J=6.59 Hz, 6H).

reactant | tert-butyl 2′-isopropyl-7′-oxo-2′,4′,6′,7′-tetrahydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-1-carboxylate | 0.37 mmol, 130 mg | C(C)(C)N1N=C2C(NC3(CC2=C1)CCN(CC3)C(=O)OC(C)(C)C)=O | C18H28N4O3
reactant | hydrochloric acid | 4 M, 2 mL | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2′-isopropyl-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridin]-7′(2′H)-one hydrochloride | 105 mg | Cl.C(C)(C)N1N=C2C(NC3(CC2=C1)CCNCC3)=O | InChI=1S/C13H20N4O.ClH/c1-9(2)17-8-10-7-13(3-5-14-6-4-13)15-12(18)11(10)16-17;/h8-9,14H,3-7H2,1-2H3,(H,15,18);1H
